US07790710B2
I1. (6-Bromo-3H-imidazo[4,5-b]pyridin-2-ylmethyl)-tributyl-phosphonium chloride
Alternatively, 4.0 g of 6-bromo-2-chloromethyl-3H-imidazo[4,5-b]pyridine (compound J1) are suspended in 17 ml of N,N-dimethylformamide and 54 ml of acetonitrile. 4.8 ml of tributylphosphine and 600 mg of tetrabutylammonium iodide are added sequentially at 40° C. Subsequently, the mixture is heated to 90° C. for 18 hours. The mixture is concentrated to dryness to give 8.94 g of the crude title compound as an oil, which is purified by chromatography on flash silica gel (eluent gradient: dichloromethane/5-20 vol. % 2-propanol). The remaining residue is re-dissolved in 150 ml of ethyl acetate. Upon standing at room temperature, a precipitate of the title compound is formed, which is collected by filtration and dried under high vacuum to yield 4.52 g of (6-bromo-3H-imidazo[4,5-b]pyridin-2-ylmethyl)-tributyl-phosphonium chloride as an amorphous solid of m.p. 180° C. ESI-MS: 412.5, 414.4 (M+, 100%:98%). TLC: Rf=0.45-0.55 (dichloromethane/methanol 10:1 parts by volume).

reactant | 6-bromo-2-chloromethyl-3H-imidazo[4,5-b]pyridine | 4.0 g | BrC=1C=C2C(=NC1)NC(=N2)CCl | C7H5BrClN3
reactant | tributylphosphine | 4.8 ml | C(CCC)P(CCCC)CCCC | C12H27P
solvent | N,N-dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 54 ml | C(C)#N | C2H3N
catalyst | tetrabutylammonium iodide | 600 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (6-Bromo-3H-imidazo[4,5-b]pyridin-2-ylmethyl)-tributyl-phosphonium chloride | [Cl-].BrC=1C=C2C(=NC1)NC(=N2)C[P+](CCCC)(CCCC)CCCC | InChI=1S/C19H32BrN3P.ClH/c1-4-7-10-24(11-8-5-2,12-9-6-3)15-18-22-17-13-16(20)14-21-19(17)23-18;/h13-14H,4-12,15H2,1-3H3,(H,21,22,23);1H/q+1;/p-1
